US04810713
4-[3-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]benzoic acid ethyl ester hydrobromide [1:1]
Following the procedure of Example 14, 4-[bis(4-fluorophenyl)methyl]piperidine and 4-(3-chloropropoxy)benzoic acid ethyl ester were reacted using potassium iodide as catalyst to give the free base which was reacted with hydrogen bromide in glacial acetic acid. The oil was stripped to dryness and the solid obtained was recrystallized from isopropyl alcohol-diethyl ether to give the white salt in 20% yield, m.p. 142°-144° C.

reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | 4-(3-chloropropoxy)benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)OCCCCl)=O | C12H15ClO3
reactant | hydrogen bromide | Br | BrH
catalyst | potassium iodide | [I-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[3-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]benzoic acid ethyl ester hydrobromide | 20% yield | Br.C(C)OC(C1=CC=C(C=C1)OCCCN1CCC(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | InChI=1S/C30H33F2NO3.BrH/c1-2-35-30(34)25-8-14-28(15-9-25)36-21-3-18-33-19-16-24(17-20-33)29(22-4-10-26(31)11-5-22)23-6-12-27(32)13-7-23;/h4-15,24,29H,2-3,16-21H2,1H3;1H
